US04224325
Preparation of 3-(1-methylhydrazino)-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine
A mixture of 4.17 g (0.02 moles) of 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine, 42 ml of ethanol and 2.3 g (0.05 moles) of methyl hydrazine is heated to reflux for 9 hours, and after cooling the mixture is poured into 100 ml of water. The solution is extracted with 3×50 ml of chloroform and the combined organic phases are dried over magnesium sulphate. After evaporation the residue is recrystallized from a 3:1 mixture of isopropanol and petroleum ether. Yield: 1.9 g (44.5%); m.p.: 93°-94° C.

reactant | 3-chloro-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | 0.02 moles, 4.17 g | ClC=1N=NC(=CC1)N1N=C(C=C1C)C | C9H9ClN4
reactant | ethanol | 42 ml | C(C)O | C2H6O
reactant | methyl hydrazine | 0.05 moles, 2.3 g | CNN | CH6N2
solvent | water | 100 ml | O | H2O
product | 3-(1-methylhydrazino)-6-(3,5-dimethyl-1-pyrazolyl)-pyridazine | CN(N)C=1N=NC(=CC1)N1N=C(C=C1C)C | C10H14N6
